US09085540B2
To a mixture of tert-butyl (3R)-3-[(5-carbamoyl-6-{[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)phenyl]amino}pyrazin-2-yl)amino]pyrrolidine-1-carboxylate (10 g), chloroform (200 mL) was added N-bromosuccinimide (3.46 g) under ice-cooling, followed by stirring for 1 hour. To the reactant was added silica gel, and the solvent was evaporated under reduced pressure and then purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-400:10:1) to obtain tert-butyl (3R)-3-[(3-bromo-5-carbamoyl-6-{[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)phenyl]amino}pyrazin-2-yl)amino]pyrrolidine-1-carboxylate (6.17 g) as a yellow amorphous substance.

reactant | tert-butyl (3R)-3-[(5-carbamoyl-6-{[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)phenyl]amino}pyrazin-2-yl)amino]pyrrolidine-1-carboxylate | 10 g | C(N)(=O)C=1N=CC(=NC1NC1=CC=C(C=C1)N1CCC2(OCCO2)CC1)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C27H37N7O5
reactant | N-bromosuccinimide | 3.46 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl (3R)-3-[(3-bromo-5-carbamoyl-6-{[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)phenyl]amino}pyrazin-2-yl)amino]pyrrolidine-1-carboxylate | 6.17 g | BrC=1C(=NC(=C(N1)C(N)=O)NC1=CC=C(C=C1)N1CCC2(OCCO2)CC1)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C27H36BrN7O5
